US04182776
11-Phenoxy-1-undecanol
To 100 ml of 1M diborane in tetrahydrofuran under nitrogen chilled in an ice bath is added dropwise 13.92 g of 11-phenoxyundecanoic acid in 50 ml of tetrahydrofuran over 30 minutes. The solution is allowed to stand at room temperature for 19 hours and is poured onto ice. After standing, the mixture is filtered and the solid washed with water to give white crystals, mp 56°-58° C. A sample on recrystallization from ethanol gives white crystals, mp 56.5°-57.5° C.

reactant | diborane | 1M, 100 ml | B#B | B2
reactant | 11-phenoxyundecanoic acid | 13.92 g | O(C1=CC=CC=C1)CCCCCCCCCCC(=O)O | C17H26O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 11-Phenoxy-1-undecanol | O(C1=CC=CC=C1)CCCCCCCCCCCO | C17H28O2
